US08067445B2
Step 5: {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (2′-ethylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester and benzyl chloroformate.

reactant | (2′-ethylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C=CC1)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C19H20F3NO2
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C=CC1)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C27H26F3NO4
